US09126998B2
Ethyl 8-[(2,6-difluorobenzyl)oxy]-7-fluoro-2-methylimidazo[1,2-a]pyridine-3-carboxylate
Under argon, 500 mg (1.97 mmol) of 3-[(2,6-difluorobenzyl)oxy]-4-fluoropyridine-2-amine Example 268A were initially charged in 10 ml of ethanol, 500 mg of powdered molecular sieve 4A and 3.24 g (19.67 mmol) of ethyl 2-chloroacetoacetate were added and the mixture was then heated at reflux for 48 h. All volatile components were evaporated at 85° C. under reduced pressure. The crude product was purified by silica gel chromatography (mobile phase: cyclohexane/ethyl acetate=9/1 isocratic). This gave 368 mg (39% of theory; purity about 76%) of the title compound.

reactant | 3-[(2,6-difluorobenzyl)oxy]-4-fluoropyridine-2-amine | 1.97 mmol, 500 mg | FC1=C(COC=2C(=NC=CC2F)N)C(=CC=C1)F | C12H9F3N2O
reactant | ethyl 2-chloroacetoacetate | 19.67 mmol, 3.24 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 8-[(2,6-difluorobenzyl)oxy]-7-fluoro-2-methylimidazo[1,2-a]pyridine-3-carboxylate | FC1=C(COC=2C=3N(C=CC2F)C(=C(N3)C)C(=O)OCC)C(=CC=C1)F | C18H15F3N2O3
